US04968341
3-(2,5-Dichlorophenoxy)-1,1-dimethyl urea (Compound No. 260)
5.00 g (28.1 mmoles) of 2,5-dichlorophenoxyamine was dissolved in 6.8 ml of pyridine, and then 3.02 g (28.1 mmoles) of dimethylcarbamoyl chloride was added. The mixture was stirred at a temperature of from 25° to 30° C. for 12 hours. After an addition of 200 ml of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and precipitated crystals were washed with hexane, whereby 4.33 g of the desired product was obtained as light yellow crystals (yield: 62%).

reactant | 2,5-dichlorophenoxyamine | 28.1 mmoles, 5.00 g | ClC1=C(ON)C=C(C=C1)Cl | C6H5Cl2NO
reactant | dimethylcarbamoyl chloride | 28.1 mmoles, 3.02 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | water | 200 ml | O | H2O
solvent | pyridine | 6.8 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,5-Dichlorophenoxy)-1,1-dimethyl urea | 4.33 g | ClC1=C(ONC(N(C)C)=O)C=C(C=C1)Cl | C9H10Cl2N2O2
